US07635715B2
Step B: Preparation of 4-Phenyl-tetrahydro-2H-pyran-4-carboxylic acid
Methyl 4-phenyl-tetrahydro-2H-pyran-4-carboxylate (15.4 g, 69.9 mmol) was dissolved in EtOH (100 mL). KOH (39.2 g, 699 mmol) was then added. The reaction mixture was then heated at reflux for 2 hours and then cooled to ambient temperature, diluted with 150 mL of diethyl ether, added to a separatory funnel, partitioned with water, washed 2 times with 50 mL of water, and separated. The aqueous layer was acidified to a pH of 2 with concentrated HCl and extracted with CHCl3 (3×100 mL), dried over Na2SO4, and concentrated in vacuo to give the title compound (11.58 g) as a light yellow solid. MS m/e=229 (M+Na)+.

reactant | Methyl 4-phenyl-tetrahydro-2H-pyran-4-carboxylate | 69.9 mmol, 15.4 g | C1(=CC=CC=C1)C1(CCOCC1)C(=O)OC | C13H16O3
reactant | KOH | 699 mmol, 39.2 g | [OH-].[K+]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 4-Phenyl-tetrahydro-2H-pyran-4-carboxylic acid | 11.58 g | C1(=CC=CC=C1)C1(CCOCC1)C(=O)O | C12H14O3
